US07247625B2
6-[(3-chloro-4-fluorophenyl)amino]-4,4-diethyl-1-methyl-1,4-dihydro-2H-3,1-benzoxazin-2-one
Prepared from 6-amino-4,4-diethyl-1-methyl-1,4-dihydro-2H-3,1-benzoxazin-2-one and 3-chloro-4-fluorophenylboronic acid according to the coupling procedure described in example 1. 1H NMR (DMSO-d6): δ 8.22 (s, 1H), 7.26 (t, J=9.1 Hz, 1H), 7.09 (dd, J=8.7, 2.3 Hz, 1H), 7.03 (m, 2H), 6.91 (m, 1H), 6.88 (d, J=2.3 Hz, 1H), 3.26 (s, 3H), 1.97 (m, 4H), 0.82 (t, J=7.2 Hz, 6H); MS (ESI) m/z 363/365 ([M+H]+); MS (ESI) m/z 361/363 ([M−H]−); Anal. calcd for C19H20ClFN2O2: C, 62.90H, 5.56; N, 7.72. Found: C, 62.65; H, 5.53; N, 7.58.

reactant | 6-amino-4,4-diethyl-1-methyl-1,4-dihydro-2H-3,1-benzoxazin-2-one | NC=1C=CC2=C(C(OC(N2C)=O)(CC)CC)C1 | C13H18N2O2
reactant | 3-chloro-4-fluorophenylboronic acid | ClC=1C=C(C=CC1F)B(O)O | C6H5BClFO2
product | 6-[(3-chloro-4-fluorophenyl)amino]-4,4-diethyl-1-methyl-1,4-dihydro-2H-3,1-benzoxazin-2-one | ClC=1C=C(C=CC1F)NC=1C=CC2=C(C(OC(N2C)=O)(CC)CC)C1 | C19H20ClFN2O2
